US07238694B2
Step 4: (R/S)-N-Benzyl-N-[1-(1-benzylpyrrolidin-3-yl)cyclopropyl]-N-(1-tert-butoxycar-bonylpiperidin-4-yl)amine.
A solution of ethylmagnesium bromide (3.0 M in ethyl ether, 13.0 mL, 39.1 mmol, 2.5 equiv) in THF (100 mL) was cooled to −78° C. To this was added a solution of titanium (IV) isopropoxide (4.8 mL, 16.3 mmol, 1.04 equiv) in THF (10 mL) dropwise with the temperature below −70° C. After stirring for thirty minutes, a solution of (R/S)-N-benzyl-N-(1-tert-butoxycarbonylpiperidin-4-yl)-1-benzylpyrrolidine-3-carboxamide (7.5 g, 15.6 mmol) in THF (10 mL) was added. The resulting solution was warmed to RT, heated at reflux for one hour. The mixture was then cooled to 8° C., and ethylmagnesium bromide (3.0 M in ethyl ether, 11.0 mL, 33.1 mmol, 2.1 equiv) was added, followed immediately by a solution of titanium (IV) isopropoxide (4.2 mL, 14.2 mmol, 0.91 equiv) in THF (10 mL). The reaction mixture was stirred at room temperature for one hour then partitioned between 1:1 EtOAc—H2O (500 mL). The organic layer was washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography (5:1 hexanes-EtOAc to 100% EtOAc) to give a pale yellow oil (4.7 g, 61%). ESI MS m/z 490.3 (M+H). 1H NMR (400 MHz, CDCl3) δ 7.34-7.11 (m, 10H), 4.18-3.98 (br m, 1H), 3.92 (app s, 2H), 3.64 (app t, J=13.2, 1H), 3.55 (d, J=12.5, 1H), 3.00-2.78 (m, 4H), 2.75-2.37 (m, 4H), 2.33-2.21 (m, 1H), 2.10-1.89 (m, 2H), 1.73-1.62 (m, 2H), 1.50-1.37 (s+m, 11H), 1.37-1.14 (m, 2H), 0.71 (app s, 1H), 0.60-0.49 (m, 1H). 13C NMR (400 MHz, CDCl3) δ 154.20 (C═O), 143.1 (Ph), 138.8 (Ph), 128.5 (Ph), 128.4 (Ph), 127.9 (Ph), 127.7 (Ph), 126.6 (Ph), 125.9 (Ph), 78.8 (t-Bu), 60.6, 58.4, 55.5, 53.2, 48.9, 45.2, 43.3 (br), 42.7 (br), 38.6, 32.1 (br), 28.1 (t-Bu), 7.6 (c-Pr).

reactant | ethylmagnesium bromide | 39.1 mmol, 3.0 M, 13.0 mL, 2.5 equiv | C(C)[Mg]Br
reactant | (R/S)-N-benzyl-N-(1-tert-butoxycarbonylpiperidin-4-yl)-1-benzylpyrrolidine-3-carboxamide | 15.6 mmol, 7.5 g | C(C1=CC=CC=C1)N(C(=O)C1CN(CC1)CC1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C29H39N3O3
reactant | ethylmagnesium bromide | 33.1 mmol, 3.0 M, 11.0 mL, 2.1 equiv | C(C)[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 16.3 mmol, 4.8 mL, 1.04 equiv | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
catalyst | titanium (IV) isopropoxide | 14.2 mmol, 4.2 mL, 0.91 equiv | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (R/S)-N-Benzyl-N-[1-(1-benzylpyrrolidin-3-yl)cyclopropyl]-N-(1-tert-butoxycar-bonylpiperidin-4-yl)amine | 4.7 g, 61% | C(C1=CC=CC=C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C1(CC1)C1CN(CC1)CC1=CC=CC=C1 | C31H43N3O2
